US08497265B2
A solution of 2-fluoro-3-(1,4-dioxaspiro[4.5]decan-8-yl)pyrazine (91 g, 0.382 mol, 1.0 eq.) in 1N aqueous HCl (573 mL) and acetone (4 L) was heated to 37° C. overnight. The reaction mixture was cooled to room temperature and most of acetone was removed under reduced pressure. The crude material was diluted with EtOAc (4 L) and the solution was washed with aqueous saturated NaHCO3 (500 mL×2), water (500 mL), brine (500 mL), dried over Na2SO4, filtered, and evaporated. The crude product was purified by column chromatography (100% hexanes to 50% EtOAc in hexanes, Rf=0.3 in 30% EtOAc in hexanes) to give 52 g (70% yield) of 4-(3-fluoropyrazin-2-yl)cyclohexanone. GC-MS: 195 (M+1); calcd for C10H11FN2O: 194.21

reactant | 2-fluoro-3-(1,4-dioxaspiro[4.5]decan-8-yl)pyrazine | 0.382 mol, 91 g, 1.0 eq. | FC1=NC=CN=C1C1CCC2(OCCO2)CC1 | C12H15FN2O2
solvent | HCl | 1N, 573 mL | Cl | ClH
solvent | acetone | 4 L | CC(=O)C | C3H6O
product | 4-(3-fluoropyrazin-2-yl)cyclohexanone | 52 g, 70% yield | FC=1C(=NC=CN1)C1CCC(CC1)=O | C10H11FN2O
